US09120785B2
To a solution of ethyl 2-methyl-4-(1,3-thiazol-2-ylcarbonyl)cyclohexanecarboxylate (2.8 g, 10 mmol) in THF (28 mL) at −40° C. was added MeMgBr (3.0 M in THF, 4.0 mL, 12 mmol) at such a rate the internal temperature did not exceed −30° C. The reaction mixture was stirred for 15 minutes at −40° C., and was then quenched with saturated aqueous ammonium chloride (50 mL) and warmed to room temperature. EtOAc (20 mL) was added, the layers separated, and the aqueous layer was extracted a second time with EtOAc (50 mL). The organic layers were combined, dried over MgSO4, filtered, absorbed on silica, and purified by silica gel chromatography to afford ethyl 4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]-2-methylcyclohexanecarboxylate.

reactant | ethyl 2-methyl-4-(1,3-thiazol-2-ylcarbonyl)cyclohexanecarboxylate | 10 mmol, 2.8 g | CC1C(CCC(C1)C(=O)C=1SC=CN1)C(=O)OCC | C14H19NO3S
reactant | MeMgBr | 12 mmol, 3.0 M, 4.0 mL | C[Mg+].[Br-]
solvent | THF | 28 mL | C1CCOC1 | C4H8O
product | ethyl 4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]-2-methylcyclohexanecarboxylate | OC(C)(C=1SC=CN1)C1CC(C(CC1)C(=O)OCC)C | C15H23NO3S
